US04713387
In 10 ml of ethanol were dissolved 1.0 g of 2-[(E)-3-[4-(pyridin-3-ylmethyl)phenyl]allyloxy]ethyl acetoacetate, 330 mg of methyl 3-aminocrotonate and 430 mg of 3-nitrobenzaldehyde, and the resulting solution was subjected to reaction under reflux for 9 hours. Subsequently, the solvent was removed by distillation under reduced pressure, and the residue thus obtained was purified by a column chromatography [Wako Silica Gel C-200, eluant: toluene:ethyl acetate (1:1 by volume)] to obtain 1.0 g (yield 60.6%) of yellow, oily 3-[2-[(E)-3-[4-(pyridin-3-ylmethyl)phenyl]allyloxy]ethyl] 5-methyl 2,6-dimethyl-4-(3-nitrophenyl)-1,4-dihydropyridine-3,5-dicarboxylate.

reactant | 2-[(E)-3-[4-(pyridin-3-ylmethyl)phenyl]allyloxy]ethyl acetoacetate | 1.0 g | C(CC(=O)C)(=O)OCCOC\C=C\C1=CC=C(C=C1)CC=1C=NC=CC1 | C21H23NO4
reactant | methyl 3-aminocrotonate | 330 mg | N\C(=C/C(=O)OC)\C | C5H9NO2
reactant | 3-nitrobenzaldehyde | 430 mg | [N+](=O)([O-])C=1C=C(C=O)C=CC1 | C7H5NO3
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 3-[2-[(E)-3-[4-(pyridin-3-ylmethyl)phenyl]allyloxy]ethyl] 5-methyl 2,6-dimethyl-4-(3-nitrophenyl)-1,4-dihydropyridine-3,5-dicarboxylate | yield 60.6% | CC=1NC(=C(C(C1C(=O)OCCOC\C=C\C1=CC=C(C=C1)CC=1C=NC=CC1)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OC)C | C33H33N3O7
